US05496681
1) Synthesis of Di-dodecylphosphoryl Chloride
Dodecyl alcohol (223.6 g, 1.2 mol) and 500 ml of methylene chloride were placed in a 1 l three-necked flask equipped with a condenser and a stirring device. They were cooled with ice-cold water, and 55.8 g (0.6 mol) of phosphorus oxychloride was added dropwise thereto over a 30-minute period with stirring at the inside temperature of 10° C. or less. After the completion of addition, the admixture was further stirred for 20 minutes as it was. Then, it was heated up to room temperature, and reacted for one hour under reduced pressure of 80-120 mmHg. Further, the reaction mixture was heated up to 50° C. and undergo reaction for 3 hours under ordinary pressure. The resulting reaction solution was cooled to room temperature to give 246.6 g of a transparent liquid (yield: 87.6%).

reactant | Dodecyl alcohol | 1.2 mol, 223.6 g | C(CCCCCCCCCCC)O | C12H26O
reactant | phosphorus oxychloride | 0.6 mol, 55.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | Di-dodecylphosphoryl Chloride | 246.6 g, yield: 87.6% | C(CCCCCCCCCCC)P(=O)(CCCCCCCCCCCC)Cl | C24H50ClOP
